US07547667B1
A reaction flask equipped with a Dean Stark trap was charged with 2,6-dimethyl cyclohehanone (252 g), 2,4-pentanediol (312 g), p-toluenesulfonic acid (6 g) and toluene (300 mL). The reaction mass was heated to reflux (110-130° C.). Water (36 mL) was collected in the Dean Stark trap. When no water was recovered, the reaction mass was cooled to an ambient temperature, neutralized with 10% aqueous sodium carbonate (100 mL) and washed with brine. Purification by vacuum distillation afforded 2,4,7,11-tetramethyl-1,5-dioxaspiro[5,5]undecane (339 g), which had a boiling point of 124° C. at a pressure of 40 mmHg.

reactant | 2,4-pentanediol | 312 g | CC(CC(C)O)O | C5H12O2
reactant | p-toluenesulfonic acid | 6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 2,4,7,11-tetramethyl-1,5-dioxaspiro[5,5]undecane | 339 g | CC1OC2(OC(C1)C)C(CCCC2C)C | C13H24O2
